US05700761
Preparation of 1-chloro-5-fluoro-4-isocyanato-2-(2-propynyloxy)benzene
To a stirred solution of 4-chloro-2 fluoro-5-[(2-propynyl)oxy]-aniline (5.0 gm) and triethylamine (5.1 gm) in CH2Cl2 (100 mL) under N2, at 10° C. (ice-bath) was added triphosgene portionwise. The solution was heated to reflux for 5 hours. The solution was evaporated under vacuum and suspended in Et2O (200 mL). The suspension was filtered and the filtrate evaporated to dryness to give the title compound as a white solid (4.68 gm), 83%; IR (nujol, cm-1): 3295 (C≡C) and 2257 (N=C=O). This crude product was used as such in the next reaction.

reactant | 4-chloro-2 fluoro-5-[(2-propynyl)oxy]-aniline | 5.0 gm | ClC1=CC(=C(N)C=C1OCC#C)F | C9H7ClFNO
reactant | triethylamine | 5.1 gm | C(C)N(CC)CC | C6H15N
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-chloro-5-fluoro-4-isocyanato-2-(2-propynyloxy)benzene | 4.68 gm | ClC1=C(C=C(C(=C1)F)N=C=O)OCC#C | C10H5ClFNO2
